US07335648B2
3-{6-[6-(3-Ethyl-ureido)-purin-9-yl]-2-styryl-tetrahydro-furo[3,4-d][1,3]dioxol-4-yl}-acrylic acid methyl ester
1-Ethyl-3-[9-(6-hydroxymethyl-2-styryl-tetrahydro-furo[3,4-d][1,3]dioxol-4-yl)-9H-purin-6-yl]-urea (5.0 g, 11 mmol) was suspended in dry acetonitrile (50 mL) and Dess-Martin periodinate (6.7 g, 16 mmol) was added. The suspension was stirred 2 h, after which time proton NMR of an aliquot showed complete conversion to the aldehyde. (Methoxycarbonylmethylene)triphenylphosphorane (3.9 g, 12 mmol) was added and stirring was continued overnight. The reaction mixture was then diluted with ethyl acetate (300 mL), washed with saturated sodium bicarbonate/thiosulfate solution (100 mL), dried with sodium sulfate and filtered. The filtrate was evaporated and the solid was dissolved in hot isopropyl alcohol (50 mL). It was allowed to cool, then heptane was added and it was stirred overnight. The resulting precipitate was washed with heptane and dried under vacuum, affording the desired product (2.9 g, 71%). 1H-NMR (300 MHz, d6 DMSO) δ 1.15 (t, 3H, J=7 Hz), 3.21 (q, 2H, J=7 Hz), 3.59 (s, 3H), 4.98 (m, 1H), 5.28 (ψt, 1H, J=6 Hz), 5.51 (dd, 1H, J=6 Hz, <2 Hz), 5.70 (d, 1H, J=16 Hz), 5.90 (d, 1H, J=6 Hz), 6.30 (dd, 1H, J=6 Hz, 16 Hz), 6.45 (d, 1H, J<2 Hz), 6.95 (d, 1H, J=15 Hz), 7.35 (m, 3H), 7.45 (d, 2H, J=7 Hz), 8.50 (s, 1H), 8.60 (s, 1H), 9.30 (t, 1H, J=6 Hz), 9.60 (s, 1H).

reactant | 1-Ethyl-3-[9-(6-hydroxymethyl-2-styryl-tetrahydro-furo[3,4-d][1,3]dioxol-4-yl)-9H-purin-6-yl]-urea | 11 mmol, 5.0 g | C(C)NC(=O)NC1=C2N=CN(C2=NC=N1)C1OC(C2OC(OC21)C=CC2=CC=CC=C2)CO | C22H24N6O5
reactant | Dess-Martin | 16 mmol, 6.7 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | (Methoxycarbonylmethylene)triphenylphosphorane | 12 mmol, 3.9 g | COC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 3-{6-[6-(3-Ethyl-ureido)-purin-9-yl]-2-styryl-tetrahydro-furo[3,4-d][1,3]dioxol-4-yl}-acrylic acid methyl ester | 2.9 g, 71% | COC(C=CC1OC(C2OC(OC21)C=CC2=CC=CC=C2)N2C1=NC=NC(=C1N=C2)NC(=O)NCC)=O | C25H26N6O6
